US09340547B2
a) N-(2,6-Dimethylphenyl)-1H-pyrrole-2-carboxamide
The title compound was prepared from 1H-pyrrole-2-carboxylic acid (2 g, 18 mmol) and 2,6-dimethylaniline (2.75 g, 22.7 mmol) following the experimental procedure described in Preparation 44a. 900 mg (23% yield) of the desired compound were obtained.

reactant | 1H-pyrrole-2-carboxylic acid | 18 mmol, 2 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | 2,6-dimethylaniline | 22.7 mmol, 2.75 g | CC1=C(N)C(=CC=C1)C | C8H11N
product | N-(2,6-Dimethylphenyl)-1H-pyrrole-2-carboxamide | 900 mg, 23% yield | CC1=C(C(=CC=C1)C)NC(=O)C=1NC=CC1 | C13H14N2O
